US06734191B2
To a solution of thiobenzamide (0.307 g, 2.24 mmol) in CH2Cl2 (11 mL) was added benzyl bromide (0.26 mL, 2.19 mmol) and the resultant solution was heated to reflux for 2 h. The mixture was cooled to room temperature and concentrated under reduced pressure. The resultant yellow solid was dried under vacuum to provide S-benzylthiobenzimidate hydrobromide (0.573 g, 85%). 1H NMR (DMSO-d6) δ4.76 (s, 2H), 7.34-7.44 (m, 3H), 7.51-7.54 (m, 2H), 7.61-7.66 (m, 2H), 7.78-7.83 (m, 1H), 7.88-7.91 (m, 2H), 11.92 (br s, 1H).

reactant | thiobenzamide | 2.24 mmol, 0.307 g | C(C1=CC=CC=C1)(=S)N | C7H7NS
reactant | benzyl bromide | 2.19 mmol, 0.26 mL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | CH2Cl2 | 11 mL | C(Cl)Cl | CH2Cl2
product | S-benzylthiobenzimidate hydrobromide | 0.573 g, 85% | Br.C(C1=CC=CC=C1)SC(C1=CC=CC=C1)=N | InChI=1S/C14H13NS.BrH/c15-14(13-9-5-2-6-10-13)16-11-12-7-3-1-4-8-12;/h1-10,15H,11H2;1H
